US06713471B1
To a solution of ethanolamine (1.10 g, 15.8 mmol) in THF at 0° C. under N2 was added 2,4-difluorobenzoyl chloride (500 mg, 2.83 mmol). The reaction mixture was stirred at 0° C. for 4 h, then diluted with ethyl acetate (100 mL) and washed with 1 N HCl (50 mL), saturated NaHCO3 (50 mL), and saturated NaCl (50 mL). The organic solution was dried over MgSO4 and concentrated in vacuo to yield 2,4-difluoro-N-(2-hydroxyethyl)benzamide as a white solid (495 mg, 87%).

reactant | ethanolamine | 15.8 mmol, 1.10 g | C(O)CN | C2H7NO
reactant | 2,4-difluorobenzoyl chloride | 2.83 mmol, 500 mg | FC1=C(C(=O)Cl)C=CC(=C1)F | C7H3ClF2O
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2,4-difluoro-N-(2-hydroxyethyl)benzamide | 495 mg, 87% | FC1=C(C(=O)NCCO)C=CC(=C1)F | C9H9F2NO2
